US07691860B2
2) Preparation of 2-(cis-3,7-diazabicyclo[3.3.0]oct-3-yl)-5-phenylbenzimidazole hydrochloride
4N Hydrochloric acid/dioxane solution (1 mL) was added to 2-(3-tert-butoxycarbonyl-cis-3,7-diazabicyclo[3.3.0]oct-7-yl)-5-phenylbenzimidazole (26 mg), followed by stirring at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure to give the title compound (26 mg).

reactant | Hydrochloric acid dioxane | 4N, 1 mL | Cl.O1CCOCC1
reactant | 2-(3-tert-butoxycarbonyl-cis-3,7-diazabicyclo[3.3.0]oct-7-yl)-5-phenylbenzimidazole | 26 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2CN(C[C@@H]2C1)C=1NC2=C(N1)C=CC(=C2)C2=CC=CC=C2 | C24H28N4O2
product | 2-(cis-3,7-diazabicyclo[3.3.0]oct-3-yl)-5-phenylbenzimidazole hydrochloride | 26 mg | Cl.[C@@H]12CN(C[C@H]2CNC1)C=1NC2=C(N1)C=CC(=C2)C2=CC=CC=C2 | InChI=1S/C19H20N4.ClH/c1-2-4-13(5-3-1)14-6-7-17-18(8-14)22-19(21-17)23-11-15-9-20-10-16(15)12-23;/h1-8,15-16,20H,9-12H2,(H,21,22);1H/t15-,16+;
